US04395547
An acetonitrile solution of allylamine (0.4 g, 7.8 mmol) and 3-oximino-2,4-pentanedione (1 g, 7.8 mmol) was refluxed for 6 hours. The acetonitrile was evaporated to give 0.9 g of 5-acetyl-4-methyl-2-vinylimidazole.

reactant | allylamine | 7.8 mmol, 0.4 g | C(C=C)N | C3H7N
reactant | 3-oximino-2,4-pentanedione | 7.8 mmol, 1 g | N(O)=C(C(C)=O)C(C)=O | C5H7NO3
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-acetyl-4-methyl-2-vinylimidazole | 0.9 g | C(C)(=O)C1=C(N=C(N1)C=C)C | C8H10N2O
